US05804588
3-Ethyl-8-methoxyquinoline
Freshly distilled 2-ethyl acrolein (1.7 ml) was added, over 20 minutes, to a solution of o-anisidine (1.5 g) and iodine (20 mg) in 70% sulphuric acid (10 ml) stirring at 110° C. After 2 hours the reaction was cooled to 0° C. and basified with 25% aqueous sodium hydroxide (pH 13). The aqueous layer was extracted with ethyl acetate (2×100 ml) and the extracts combined. The organic layer was extracted with 2M hydrochloric acid (2×100 ml) and the combined acidic extracts basified once again with 25% sodium hydroxide. The aqueous layer was extracted with ethyl acetate (2×100 ml), the extracts combined, dried over magnesium sulphate, filtered, and the filtrate evaporated in vacuo. The residue was purified by column chromatography, eluting with 25%-50% ethyl acetate in hexane, to yield the title product as a tan oil (0.42 g).

reactant | 2-ethyl acrolein | 1.7 ml | C(C)C(C=O)=C | C5H8O
reactant | o-anisidine | 1.5 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | iodine | 20 mg | II | I2
reactant | sodium hydroxide | pH 13 | [OH-].[Na+]
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Ethyl-8-methoxyquinoline | 0.42 g | C(C)C=1C=NC2=C(C=CC=C2C1)OC | C12H13NO
